data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_193956_0,[C:1]([C:3]([C:2]([O:4][O:5][H:8])=[O:6])=[O:7])([H:9])([H:10])[H:11]>>[C:1]([C:3]([O:4][C:2]([O:5][H:8])=[O:6])=[O:7])([H:9])([H:10])[H:11],35.56858250001312
MR_94529_0,[C:1]([C:4]([N:3]([C:5]([C:2]([H:12])([H:13])[H:14])=[C:6]([H:15])[H:16])[H:8])=[O:7])([H:9])([H:10])[H:11]>>[C:1]([C:4]([C:6](/[C:5]([C:2]([H:12])([H:13])[H:14])=[N:3]/[H:8])([H:15])[H:16])=[O:7])([H:9])([H:10])[H:11],52.98421750002305
MR_144801_0,[C:1](/[N:9]=[C:6](\[C:2]([H:13])([H:14])[H:15])[C:7]([C:3]([H:16])([H:17])[H:18])[C:8]([C:4]([H:19])([H:20])[H:21])[C:5]([H:22])([H:23])[H:24])([H:10])([H:11])[H:12]>>[C:1]([N:9]1[C:6]([C:2]([H:13])([H:14])[H:15])=[C:7]([C:3]([H:16])([H:17])[H:18])[C:8]1([C:4]([H:19])([H:20])[H:21])[C:5]([H:22])([H:23])[H:24])([H:10])([H:11])[H:12],38.92382499999556
MR_264789_0,[C:1](=[C:5]([C:3]([H:17])([H:18])[H:19])[C:4]([C:2]([H:14])([H:15])[H:16])([N:6]([H:8])[H:9])[N:7]([H:10])[H:11])([H:12])[H:13]>>[C:1](/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:4](\[C:2]([H:14])([H:15])[H:16])[N:6]([H:8])[H:9])([N:7]([H:10])[H:11])([H:12])[H:13],56.39028749998417
MR_233734_1,[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:4]([C:3]([H:18])([H:19])[H:20])=[N:8]\[H:10])(/[C:6](=[C:7](\[N:5]([H:11])[H:12])[H:14])[H:13])[H:9]>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:6](/[C:4]([C:3]([H:18])([H:19])[H:20])=[N:8]\[H:10])(/[C:7](=[N:5]/[H:12])[H:14])[H:13])([H:9])[H:11],70.16077499999454
MR_516608_1,[C:1]([O:4][C:2](/[N:6]=[C:3](\[O:5][H:8])[H:10])=[N:7]/[H:9])([H:11])([H:12])[H:13]>>[C:1]([O:4][C@@:3]([O:5][H:8])([N:6][C:2][N:7][H:9])[H:10])([H:11])([H:12])[H:13],43.299382500041474
MR_565593_0,[N:1]([N:2]([H:8])[H:9])([N:3]([H:6])[H:7])[N:4][O:5]>>[N:1]([N:3]([H:6])[H:7])[N:4][O:5][N:2]([H:8])[H:9],44.435785000025874
MR_85572_1,[C:1]1([C:5]([H:15])([H:16])[H:17])([O:7][H:9])[C:2]([O:8][H:10])([H:11])[C:4]([H:13])([H:14])[C:3]1([C:6]([H:18])([H:19])[H:20])[H:12]>>[C:1]([C:2]1([H:11])[C:3]([C:6]([H:18])([H:19])[H:20])([H:12])[C:4]1([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])([O:7][H:9])[O:8][H:10],71.60465250002304
MR_3265_0,[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:9])([N:4]([H:7])[H:8])([H:10])[H:11]>>[C:1]([N:4]([H:7])[H:8])([O:6]/[C:5](=[N:3]/[C:2]([H:12])([H:13])[H:14])[H:9])([H:10])[H:11],48.18635250000895
MR_301892_0,[C@:1]1([C:2]([H:11])([H:12])[H:13])([H:8])[N:3]([H:7])[O:6][C:4]([H:9])=[C:5]1[H:10]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:5](/[C@:4]1([H:9])[N:3]([H:7])[O:6]1)[H:10])[H:8],69.62928250001667
MR_221135_1,[N:1]([N:2](/[C:4](=[N:6]/[H:10])[H:12])[H:8])(/[C:3](=[N:5]\[H:9])[H:11])[H:7]>>[N:1]([N:2](/[C:3](=[N:5]\[H:9])[H:11])[H:8])(/[C:4](=[N:6]/[H:10])[H:12])[H:7],72.59233750002622
MR_132806_1,[C:1]1([H:10])([H:11])[C:3](=[C:6]([H:13])[H:14])[N:2]([O:7][H:8])[C:4]([H:9])=[C:5]1[H:12]>>[C:1]1([H:10])([H:11])[C:3](=[C:6]([H:13])[H:14])[C:5]1(/[C:4](=[N:2]/[O:7][H:8])[H:9])[H:12],70.2078375000184
MR_302321_0,[C:1](/[N:6]=[N:5]/[C:2]([N:3]([H:7])[H:8])=[C:4]([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:1]([N:6]1[C:4]([H:12])([H:13])[C:2]([N:3]([H:7])[H:8])=[N:5]1)([H:9])([H:10])[H:11],41.452649999995685
MR_557837_0,[C:1]([C:4]([N:2](/[C:3]([O:6][H:10])=[N:7]/[O:5][H:9])[H:11])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C:4]([N:7](/[C:3](=[N:2]\[H:11])[O:6][H:10])[O:5][H:9])=[O:8])([H:12])([H:13])[H:14],46.56050000001187
MR_320578_1,[C:1]([C:2]([C:4]([H:20])([H:21])[H:22])([H:13])[H:14])([C:5]([C:6]([C:3]([H:15])([H:16])[H:17])=[C:8]([H:18])[H:19])=[O:9])([N:7]([H:11])[H:12])[H:10]>>[C:1]1([N:7]([H:11])[H:12])([H:10])[C:5]([C:2]([C:4]([H:20])([H:21])[H:22])([H:13])[H:14])([C:6]([C:3]([H:15])([H:16])[H:17])=[C:8]([H:18])[H:19])[O:9]1,63.6259900000141
MR_399203_0,[C:1]1([H:9])([H:10])[N:5]([H:8])[N:4]([C:2]([H:11])([H:12])[H:13])[C:6]([C:3]([H:14])([H:15])[H:16])=[N:7]1>>[C:1]1([H:9])([H:10])[N:5]([H:8])[N:7]1/[C:6]([C:3]([H:14])([H:15])[H:16])=[N:4]/[C:2]([H:11])([H:12])[H:13],68.06743500000067
MR_331732_0,[C:1]1([H:11])([H:12])[N:4]([H:9])[O:8][C:6]([C:3]([H:16])([H:17])[H:18])([N:5]([C:2]([H:13])([H:14])[H:15])[H:10])[O:7]1>>[C:1]([N:4]([N:5]([C:2]([H:13])([H:14])[H:15])[H:10])[H:9])([O:7][C:6]([C:3]([H:16])([H:17])[H:18])=[O:8])([H:11])[H:12],55.32855749998959
MR_499754_1,[c:1]1(=[O:7])[o:4][c:2]([O:6][H:8])[c:3]([H:9])[o:5]1>>[C:1]1(=[O:7])[C:3]([C:2](=[O:4])[O:6][H:8])([H:9])[O:5]1,43.52402750000934
MR_117612_1,[C:1]([N:2]([C:3]([N:4]([H:10])[H:11])=[C:7]([H:17])[H:18])/[C:5](=[C:6](/[O:8][H:9])[H:13])[H:12])([H:14])([H:15])[H:16]>>[C:1](/[N:2]=[C:5](\[C@@:6]([C:3]([N:4]([H:10])[H:11])=[C:7]([H:17])[H:18])([O:8][H:9])[H:13])[H:12])([H:14])([H:15])[H:16],65.28133499997239
MR_625068_1,[C:1](/[C:5](=[C:2](\[O:6]/[C:4](=[N:8]/[N:3]([H:10])[H:11])[H:12])[O:7][H:9])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:5](=[C:2](/[O:7][H:9])[N:8]([N:3]([H:10])[H:11])[C:4](=[O:6])[H:12])[H:13])([H:14])([H:15])[H:16],44.61650499999763
